T1 (net160 net121 net121 0) pfet L=1.38E-6 W=7.13E-6
R2 ( net76 net67)  R=7.0E0
T3 ( net67 net10 0 0)  nfet  L=6.76E-6 W=3.34E-6
T4 ( net1 net10 0 0)  nfet  L=6.76E-6 W=3.34E-6
T5 ( net6 net67 net1 0)  nfet  L=6.76E-6 W=3.34E-6
T6 (net124 net115 net115 0) nfet L=6.50E-6 W=4.79E-6
T7 (net99 net97 net97 0) nfet L=4.79E-6 W=3.73E-6
R8 ( net69 net83)  R=5.3E3
T9 ( net83 net83 net73 0)  nfet  L=0.77E-6 W=4.65E-6
T10 ( net73 net84 0 0)  nfet  L=0.77E-6 W=4.65E-6
T11 ( net84 net84 0 0)  nfet  L=0.77E-6 W=4.65E-6
T12 ( net23 net83 net84 0)  nfet  L=0.77E-6 W=4.65E-6
R13 (net157 net66) R=6.3E5
C14 (net103 net11) C=1.7E-12
C15 (net51 net97) C=2.1E-8
T16 (net11 net143 net143 0) pfet L=4.21E-6 W=8.96E-6
T17 (net19 net130 net130 0) pfet L=2.09E-6 W=9.34E-6
R18 (net107 net37) R=6.5E1
C19 (net61 net118) C=1.7E-10
T20 (net131 net71 net71 0) nfet L=7.92E-6 W=5.79E-6
C21 (net68 0) C=7.9E-7
R22 (net20 net78) R=8.8E2
R23 (net151 net78) R=3.4E6
T24 (net77 net35 net35 0) pfet L=7.27E-6 W=2.88E-6
T25 (net85 net60 net60 0) nfet L=5.35E-6 W=6.26E-6
C26 (net36 net145) C=2.5E-10
R27 (net131 net28) R=8.4E2
R28 (net96 net5) R=9.2E2
C29 (net128 net125) C=8.5E-13
C30 (net8 net133) C=7.0E-7
T31 (0 net57 net57 0) pfet L=5.68E-6 W=2.49E-6
R32 (vdd! net100) R=2.5E6
C33 (net22 net125) C=8.3E-5
C34 (net65 net157) C=6.7E-5
T35 (net82 net15 net15 0) pfet L=3.06E-6 W=5.20E-6
R36 (net94 net59) R=6.9E1
T37 (net152 net13 net13 0) pfet L=6.63E-6 W=8.13E-6
T38 (net76 net156 net156 0) pfet L=6.35E-6 W=8.81E-6
T39 (net80 vdd! vdd! 0) pfet L=5.24E-6 W=2.77E-6
T40 (net148 vdd! vdd! 0) nfet L=4.51E-6 W=9.37E-6
C41 (net130 net136) C=1.2E-14
T42 (net115 net148 net148 0) pfet L=2.91E-6 W=6.23E-6
T43 (net47 net55 net55 0) pfet L=8.08E-6 W=5.91E-6
T44 (net121 net100 net100 0) pfet L=7.09E-6 W=6.18E-6
R45 (net142 net113) R=2.1E0
C46 (net68 net78) C=0.3E-11
R47 (net43 net79) R=6.9E4
C48 (0 net98) C=0.4E-13
R49 (net133 0) R=3.2E0
T50 (net59 0 0 0) nfet L=1.86E-6 W=9.15E-6
R51 (net112 net141) R=3.0E1
T52 (net143 0 0 0) nfet L=7.27E-6 W=2.04E-6
C53 (net124 net39) C=7.9E-5
R54 (net82 net160) R=2.1E2
T55 (vdd! net130 net130 0) pfet L=8.42E-6 W=1.07E-6
T56 (net79 net87 net87 0) pfet L=4.42E-6 W=1.15E-6
T57 (net7 net130 net130 0) nfet L=9.63E-6 W=6.11E-6
T58 (net158 vdd! vdd! 0) pfet L=1.48E-6 W=1.60E-6
C59 (net97 net137) C=4.2E-13
R60 (net128 net68) R=9.7E5
R61 (net127 net64) R=6.6E2
T62 (net32 net96 net96 0) pfet L=2.41E-6 W=8.68E-6
T63 (net114 net14 net14 0) pfet L=1.73E-6 W=3.50E-6
R64 (net74 net53) R=0.5E6
R65 (net106 net23) R=1.9E5
C66 (net15 net118) C=5.3E-6
R67 (net75 net38) R=9.8E2
R68 (net121 net75) R=9.5E2
R69 (vdd! net107) R=4.4E6
R70 (net154 net9) R=3.6E1
R71 (vdd! net56) R=2.8E1
C72 (net27 net90) C=8.7E-10
T73 (net19 net151 net151 0) pfet L=4.93E-6 W=4.31E-6
C74 (net152 net115) C=8.6E-8
T75 (net50 net156 net156 0) nfet L=7.50E-6 W=0.97E-6
C76 (net120 net158) C=5.8E-13
T77 (net21 vdd! vdd! 0) pfet L=6.50E-6 W=6.80E-6
C78 (net32 net19) C=0.6E-8
R79 (net128 0) R=3.7E2
C80 (net39 net89) C=3.6E-5
C81 (0 net41) C=1.1E-14
T82 (vdd! net153 net153 0) pfet L=5.66E-6 W=8.34E-6
T83 (net127 net24 net24 0) nfet L=2.55E-6 W=1.11E-6
T84 (net154 vdd! vdd! 0) pfet L=1.82E-6 W=1.04E-6
C85 (net141 net68) C=3.4E-11
T86 (net123 net137 net137 0) pfet L=0.63E-6 W=2.52E-6
C87 (net25 net127) C=9.3E-7
R88 (net5 net18) R=5.1E3
T89 (vdd! net157 net157 0) nfet L=2.42E-6 W=7.04E-6
C90 (net106 net149) C=9.8E-12
R91 (net92 net141) R=4.6E2
T92 (net17 net68 net68 0) pfet L=4.52E-6 W=3.68E-6
R93 (net4 net122) R=3.3E6
C94 (net153 net115) C=1.3E-10
T95 (net13 net2 net2 0) nfet L=0.12E-6 W=1.59E-6
T96 (net4 net92 net92 0) pfet L=5.81E-6 W=0.35E-6
T97 (net15 net14 net14 0) pfet L=2.01E-6 W=8.73E-6
R98 (net31 net54) R=9.0E1
R99 (net31 0) R=8.9E2
T100 (net110 net156 net156 0) pfet L=1.69E-6 W=2.63E-6
C101 (0 net110) C=3.1E-8
R102 (net15 net116) R=7.1E5
R103 (net151 net31) R=5.4E1
R104 (net64 net119) R=4.7E0
R105 (net72 net5) R=8.9E2
T106 (net21 net36 net36 0) pfet L=4.75E-6 W=3.35E-6
T107 (net100 net103 net103 0) nfet L=0.29E-6 W=3.33E-6
T108 (net22 net101 net101 0) pfet L=6.26E-6 W=8.41E-6
T109 (net31 net99 net99 0) pfet L=1.41E-6 W=9.81E-6
T110 (net159 net97 net97 0) nfet L=5.86E-6 W=5.40E-6
R111 (net28 net51) R=2.5E3
R112 (net90 net63) R=2.0E0
T113 (net24 net74 net74 0) nfet L=2.27E-6 W=1.02E-6
R114 (net104 net61) R=9.8E4
C115 (net35 net90) C=3.5E-6
C116 (net129 0) C=3.2E-8
R117 (net12 net118) R=9.0E1
R118 (0 net28) R=5.8E1
T119 (net86 net116 net116 0) pfet L=2.43E-6 W=6.64E-6
C120 (net116 net121) C=5.6E-13
T121 (net154 net23 net23 0) nfet L=6.68E-6 W=8.27E-6
T122 (net123 net58 net58 0) nfet L=7.17E-6 W=2.05E-6
T123 (net17 net144 net144 0) pfet L=2.73E-6 W=9.21E-6
T124 (net155 net35 net35 0) pfet L=9.56E-6 W=9.93E-6
T125 (net63 net148 net148 0) nfet L=1.51E-6 W=3.08E-6
C126 (vdd! net149) C=1.9E-6
C127 (net64 net85) C=6.8E-12
C128 (net58 net77) C=2.2E-7
R129 (net142 net128) R=3.4E6
C130 (net108 vdd!) C=4.3E-13
T131 (net144 net55 net55 0) pfet L=3.50E-6 W=6.76E-6
C132 (net154 net108) C=4.4E-11
R133 (net113 net135) R=9.1E6
T134 (net12 net62 net62 0) nfet L=9.07E-6 W=1.85E-6
R135 (net158 net52) R=3.4E5
R136 (net60 net126) R=2.8E4
R137 (net13 net153) R=6.9E6
R138 (net65 net111) R=7.2E5
R139 (net154 net47) R=1.5E1
C140 (net130 net124) C=2.1E-13
R141 (vdd! net42) R=6.5E6
T142 (net95 net127 net127 0) nfet L=1.27E-6 W=5.26E-6
R143 (net126 net98) R=4.3E4
C144 (net50 net38) C=8.4E-8
T145 (net43 net29 net29 0) pfet L=1.78E-6 W=9.13E-6
T146 (net117 net91 net91 0) pfet L=6.92E-6 W=6.79E-6
T147 (net144 net82 net82 0) nfet L=4.79E-6 W=7.76E-6
T148 (net65 net88 net88 0) pfet L=0.25E-6 W=1.91E-6
R149 (net13 net68) R=7.0E5
R150 (net13 net141) R=3.9E2
C151 (net53 net58) C=8.4E-7
T152 (net94 net60 net60 0) pfet L=1.90E-6 W=7.97E-6
T153 (net23 net140 net140 0) nfet L=5.08E-6 W=1.84E-6
T154 (net71 net114 net114 0) pfet L=7.96E-6 W=2.20E-6
C155 (net65 net27) C=4.2E-7
R156 (net77 net142) R=0.9E2
T157 (net35 net21 net21 0) nfet L=5.88E-6 W=2.10E-6
T158 (net154 net49 net49 0) pfet L=5.31E-6 W=6.97E-6
T159 (net139 net58 net58 0) pfet L=5.29E-6 W=0.90E-6
R160 (net124 net114) R=4.6E2
T161 (net93 net64 net64 0) pfet L=6.97E-6 W=0.65E-6
R162 (vdd! net114) R=3.3E5
R163 (net27 net74) R=2.5E1
R164 (0 net97) R=3.4E0
T165 (net141 net136 net136 0) nfet L=5.31E-6 W=0.93E-6
T166 (net128 net64 net64 0) pfet L=4.63E-6 W=8.49E-6
C167 (net6 net131) C=0.5E-5
T168 (net95 net40 net40 0) pfet L=6.72E-6 W=1.92E-6
T169 (net112 net23 net23 0) pfet L=2.73E-6 W=3.80E-6
R170 (net144 net123) R=0.2E3
T171 (net6 net120 net120 0) pfet L=4.54E-6 W=9.42E-6
C172 (net116 net7) C=5.9E-13
T173 (net3 net120 net120 0) pfet L=7.69E-6 W=8.21E-6
R174 (net109 net149) R=2.4E5
R175 (net27 net40) R=0.9E6
R176 (net98 net24) R=9.1E3
C177 (net112 net60) C=9.0E-13
T178 (net111 net94 net94 0) pfet L=5.69E-6 W=2.05E-6
R179 (net138 net81) R=6.5E6
C180 (net125 net55) C=1.7E-10
T181 (net85 net145 net145 0) nfet L=3.63E-6 W=1.86E-6
T182 (net11 net68 net68 0) pfet L=7.60E-6 W=8.06E-6
T183 (net57 net62 net62 0) nfet L=2.16E-6 W=1.84E-6
T184 (net146 net86 net86 0) pfet L=4.37E-6 W=8.33E-6
C185 (net103 net124) C=0.3E-11
T186 (net82 net35 net35 0) pfet L=7.71E-6 W=6.06E-6
C187 (net59 net121) C=3.6E-9
T188 (vdd! net56 net56 0) pfet L=7.05E-6 W=3.89E-6
T189 (net124 net53 net53 0) nfet L=6.06E-6 W=7.70E-6
T190 (net7 net117 net117 0) nfet L=4.59E-6 W=7.70E-6
R191 (net93 net112) R=8.1E6
R192 (net134 net31) R=9.7E2
T193 (net102 net103 net103 0) pfet L=1.53E-6 W=1.85E-6
T194 (net90 net156 net156 0) nfet L=8.49E-6 W=6.24E-6
R195 (net63 net54) R=1.3E0
R196 (net37 net51) R=0.7E1
T197 (net123 vdd! vdd! 0) nfet L=1.41E-6 W=2.03E-6
T198 (0 net54 net54 0) pfet L=6.07E-6 W=4.25E-6
R199 (0 net153) R=9.8E5
T200 (net135 net86 net86 0) pfet L=8.15E-6 W=8.27E-6
C201 (net56 net97) C=9.7E-13
T202 (net43 net52 net52 0) pfet L=3.12E-6 W=7.82E-6
R203 (net125 0) R=8.2E0
R204 (net26 net106) R=5.5E6
R205 (net38 net64) R=6.8E2
R206 (net42 net149) R=0.1E3
T207 (net140 net143 net143 0) nfet L=3.76E-6 W=1.52E-6
C208 (net104 net92) C=6.6E-6
T209 (net36 net38 net38 0) nfet L=8.64E-6 W=8.19E-6
R210 (net126 net156) R=2.0E6
T211 (net90 net29 net29 0) nfet L=8.22E-6 W=9.86E-6
C212 (net38 0) C=3.1E-9
T213 (0 net133 net133 0) pfet L=8.87E-6 W=8.83E-6
T214 (net98 net60 net60 0) pfet L=6.46E-6 W=1.24E-6
C215 (net145 net130) C=4.9E-13
T216 (net153 net13 net13 0) nfet L=4.50E-6 W=1.65E-6
R217 (net53 net90) R=0.8E1
T218 (net120 net26 net26 0) pfet L=9.22E-6 W=1.71E-6
R219 (net74 net49) R=5.2E2
R220 (net65 net156) R=8.6E2
T221 (net75 0 0 0) nfet L=4.75E-6 W=4.80E-6
T222 (net107 net115 net115 0) nfet L=0.88E-6 W=5.68E-6
C223 (net79 net128) C=7.7E-13
T224 (net77 net48 net48 0) pfet L=3.70E-6 W=2.58E-6
T225 (net149 net21 net21 0) nfet L=9.50E-6 W=2.42E-6
C226 (net24 net92) C=5.0E-14
R227 (net107 net141) R=3.9E2
T228 (net116 net94 net94 0) pfet L=8.28E-6 W=3.82E-6
R229 (net60 net102) R=9.8E0
C230 (net7 0) C=6.2E-6
T231 (net136 net91 net91 0) nfet L=1.10E-6 W=4.64E-6
R232 (net25 net155) R=0.7E0
T233 (net66 net25 net25 0) pfet L=4.53E-6 W=7.89E-6
T234 (net146 net21 net21 0) pfet L=9.41E-6 W=9.85E-6
T235 (net106 net125 net125 0) nfet L=4.66E-6 W=1.05E-6
R236 (net125 net124) R=0.4E0
C237 (net135 net89) C=1.4E-12
T238 (vdd! net14 net14 0) nfet L=2.59E-6 W=4.50E-6
R239 (net17 net48) R=4.5E3
T240 (net36 net9 net9 0) nfet L=2.85E-6 W=1.89E-6
R241 (net13 net149) R=3.0E1
R242 (net104 net58) R=1.7E2
T243 (net157 net151 net151 0) nfet L=9.87E-6 W=7.00E-6
C244 (net55 net30) C=7.3E-5
R245 (net131 0) R=5.7E3
R246 (net132 net42) R=1.6E4
T247 (net103 net119 net119 0) nfet L=4.84E-6 W=2.61E-6
R248 (net146 net54) R=0.8E4
C249 (net11 net150) C=1.1E-14
T250 (net93 net22 net22 0) nfet L=6.00E-6 W=0.94E-6
R251 (0 net70) R=2.8E6
T252 (net144 net105 net105 0) nfet L=0.96E-6 W=7.41E-6
T253 (net153 net108 net108 0) nfet L=4.08E-6 W=8.27E-6
R254 (net12 net56) R=2.1E4
C255 (net42 net69) C=6.2E-13
C256 (vdd! net71) C=2.3E-6
T257 (net16 net97 net97 0) nfet L=6.09E-6 W=5.17E-6
T258 (net132 net58 net58 0) nfet L=9.71E-6 W=4.97E-6
C259 (net136 net27) C=3.6E-6
C260 (net130 vdd!) C=1.4E-10
T261 (net131 net63 net63 0) nfet L=3.48E-6 W=4.67E-6
T262 (net96 net12 net12 0) pfet L=7.83E-6 W=4.30E-6
R263 (net36 net106) R=8.8E0
R264 (net47 0) R=9.6E4
T265 (net23 net113 net113 0) pfet L=8.84E-6 W=5.45E-6
R266 (net44 net96) R=5.5E4
C267 (net98 net3) C=8.3E-9
R268 (net32 vdd!) R=3.8E0
T269 (net105 net152 net152 0) nfet L=1.33E-6 W=7.48E-6
R270 (net93 vdd!) R=1.5E6
T271 (net49 net79 net79 0) pfet L=8.54E-6 W=0.35E-6
C272 (net153 0) C=7.9E-7
R273 (net119 net27) R=6.1E3
C274 (net88 net154) C=0.4E-10
T275 (net19 net79 net79 0) pfet L=5.21E-6 W=7.78E-6
R276 (net35 net98) R=6.9E5
R277 (net114 net112) R=6.8E3
T278 (net91 net137 net137 0) nfet L=8.30E-6 W=9.88E-6
T279 (net68 net139 net139 0) pfet L=3.31E-6 W=3.32E-6
T280 (net40 net110 net110 0) nfet L=6.09E-6 W=0.14E-6
T281 (net50 net19 net19 0) nfet L=3.11E-6 W=5.19E-6
R282 (net137 net89) R=3.3E5
T283 (net57 net11 net11 0) nfet L=1.62E-6 W=6.15E-6
R284 (net159 net122) R=2.7E5
T285 (net106 net105 net105 0) pfet L=5.93E-6 W=9.64E-6
C286 (net2 vdd!) C=5.3E-14
T287 (net132 net18 net18 0) nfet L=5.64E-6 W=7.23E-6
T288 (net138 net71 net71 0) pfet L=3.11E-6 W=5.80E-6
T289 (net18 vdd! vdd! 0) nfet L=0.37E-6 W=4.52E-6
C290 (net23 net109) C=0.6E-10
T291 (net77 0 0 0) nfet L=8.97E-6 W=4.31E-6
T292 (net123 0 0 0) nfet L=4.59E-6 W=5.54E-6
C293 (net32 net13) C=4.8E-7
T294 (net57 net109 net109 0) pfet L=6.91E-6 W=9.63E-6
T295 (net26 net128 net128 0) pfet L=5.10E-6 W=4.33E-6
R296 (net13 net124) R=2.4E3
T297 (net105 net23 net23 0) pfet L=4.68E-6 W=2.47E-6
T298 (net89 net92 net92 0) pfet L=6.64E-6 W=7.22E-6
T299 (net105 net107 net107 0) pfet L=4.97E-6 W=1.57E-6
C300 (net82 net160) C=3.4E-13
R301 (net131 vdd!) R=3.9E4

