T1 (net48 net30 net30 0) nfet L=9.29E-6 W=5.68E-6
T2 ( net27 net27 0 0)  nfet  L=8.83E-6 W=7.42E-6
T3 ( net11 net27 0 0)  nfet  L=8.83E-6 W=7.42E-6
R4 ( net11 net37)  R=2.3E6
R5 (net20 net62) R=7.3E5
C6 (net2 0) C=4.1E-13
R7 (net76 net21) R=2.6E3
R8 (net88 net81) R=4.9E0
R9 ( net54 net23)  R=6.7E4
T10 ( net23 net23 net28 0)  nfet  L=4.00E-6 W=8.64E-6
T11 ( net28 net32 0 0)  nfet  L=4.00E-6 W=8.64E-6
T12 ( net32 net32 0 0)  nfet  L=4.00E-6 W=8.64E-6
T13 ( net63 net23 net32 0)  nfet  L=4.00E-6 W=8.64E-6
R14 (net66 net55) R=7.3E1
C15 (net85 0) C=9.3E-9
C16 (net51 net35) C=3.0E-11
R17 (net85 net87) R=9.1E6
R18 (net54 net55) R=3.5E5
C19 (net37 net12) C=8.9E-14
T20 (net93 net91 net91 0) nfet L=4.32E-6 W=7.14E-6
T21 (vdd! net21 net21 0) nfet L=8.24E-6 W=2.28E-6
R22 (net88 net47) R=2.5E2
T23 (net39 net61 net61 0) nfet L=5.14E-6 W=5.42E-6
R24 (net84 net81) R=5.4E6
C25 (net53 net46) C=3.2E-6
C26 (net22 net54) C=3.6E-11
R27 (net72 net54) R=9.4E0
T28 (vdd! net58 net58 0) pfet L=9.43E-6 W=9.33E-6
C29 (net3 net2) C=7.5E-8
T30 (net1 net63 net63 0) pfet L=4.08E-6 W=3.95E-6
T31 (net15 net84 net84 0) nfet L=8.09E-6 W=8.62E-6
T32 (net66 net14 net14 0) pfet L=5.41E-6 W=9.68E-6
T33 (vdd! net35 net35 0) pfet L=4.33E-6 W=5.05E-6
T34 (net36 net65 net65 0) nfet L=3.51E-6 W=1.06E-6
R35 (net89 net27) R=9.2E2
R36 (net2 net41) R=6.6E4
C37 (net51 net75) C=1.0E-13
R38 (vdd! net90) R=8.7E5
C39 (net54 net80) C=6.2E-5
T40 (net70 net14 net14 0) pfet L=4.49E-6 W=9.37E-6
R41 (net90 net17) R=10.0E5
T42 (net93 net19 net19 0) pfet L=4.79E-6 W=2.47E-6
R43 (net35 net67) R=3.8E5
C44 (net30 net55) C=9.0E-8
C45 (net19 net34) C=0.4E-8
T46 (net8 net33 net33 0) nfet L=5.04E-6 W=6.81E-6
T47 (net48 net18 net18 0) pfet L=8.70E-6 W=7.60E-6
T48 (net75 net84 net84 0) nfet L=0.64E-6 W=6.64E-6
T49 (net38 net8 net8 0) pfet L=0.83E-6 W=0.28E-6
T50 (net3 0 0 0) nfet L=5.11E-6 W=7.48E-6
C51 (net44 net55) C=6.8E-8
R52 (net9 net17) R=3.9E0
T53 (net62 net85 net85 0) pfet L=8.53E-6 W=2.72E-6
T54 (net25 net85 net85 0) nfet L=7.77E-6 W=2.19E-6
C55 (net75 net2) C=9.5E-6
C56 (net77 net61) C=3.0E-13
C57 (net90 net78) C=0.7E-6
T58 (net60 net3 net3 0) pfet L=5.03E-6 W=3.93E-6
T59 (vdd! net47 net47 0) pfet L=2.75E-6 W=4.58E-6
T60 (net76 net90 net90 0) pfet L=8.98E-6 W=1.98E-6
T61 (net29 net2 net2 0) pfet L=8.57E-6 W=0.88E-6
R62 (net49 net85) R=2.9E0
T63 (net66 net4 net4 0) pfet L=8.34E-6 W=1.00E-6
T64 (net25 net24 net24 0) pfet L=0.88E-6 W=4.61E-6
R65 (net58 net37) R=4.8E4
R66 (net29 net4) R=2.5E0
T67 (net64 net53 net53 0) pfet L=5.13E-6 W=8.60E-6
T68 (vdd! net40 net40 0) pfet L=9.99E-6 W=2.37E-6
T69 (net80 net2 net2 0) nfet L=8.70E-6 W=3.35E-6
T70 (net70 net43 net43 0) nfet L=3.39E-6 W=3.61E-6
R71 (net17 net60) R=5.5E2
R72 (net36 net45) R=3.9E1
R73 (net49 net67) R=7.2E6
C74 (net51 net10) C=5.2E-10
R75 (net68 net46) R=7.2E6
T76 (net57 net74 net74 0) nfet L=9.45E-6 W=4.80E-6
R77 (net65 net9) R=7.9E3
T78 (net27 net61 net61 0) nfet L=1.48E-6 W=2.88E-6
T79 (net26 net37 net37 0) nfet L=6.40E-6 W=1.20E-6
T80 (0 net16 net16 0) pfet L=8.83E-6 W=6.67E-6
R81 (net4 net58) R=3.3E6
C82 (net61 net3) C=2.6E-7
T83 (net85 net25 net25 0) pfet L=7.02E-6 W=4.53E-6
T84 (net52 net41 net41 0) pfet L=7.52E-6 W=0.77E-6
R85 (net79 net5) R=4.6E3
R86 (net70 net68) R=0.3E2
C87 (net53 net30) C=9.3E-7
T88 (net58 net39 net39 0) pfet L=1.96E-6 W=2.95E-6
R89 (net13 net51) R=7.9E4
C90 (net6 net25) C=2.7E-14
T91 (net14 net35 net35 0) pfet L=0.41E-6 W=7.58E-6
C92 (net5 net19) C=8.8E-7
T93 (net89 net27 net27 0) pfet L=1.56E-6 W=5.83E-6
T94 (net1 net76 net76 0) pfet L=1.59E-6 W=5.10E-6
T95 (net61 net46 net46 0) pfet L=5.92E-6 W=2.07E-6
T96 (net38 vdd! vdd! 0) pfet L=4.46E-6 W=2.16E-6
C97 (vdd! net74) C=7.2E-11
R98 (net52 net60) R=10.0E5
C99 (net44 net89) C=2.5E-14
R100 (vdd! net4) R=6.9E0
T101 (net81 net58 net58 0) pfet L=2.73E-6 W=2.60E-6
C102 (net29 vdd!) C=8.6E-14
T103 (net57 net35 net35 0) nfet L=0.81E-6 W=9.23E-6
T104 (net72 net79 net79 0) nfet L=0.39E-6 W=5.60E-6
T105 (net38 net80 net80 0) pfet L=9.03E-6 W=4.73E-6
T106 (net16 net86 net86 0) nfet L=8.50E-6 W=1.21E-6
T107 (net34 net46 net46 0) nfet L=4.79E-6 W=6.58E-6
T108 (net14 net43 net43 0) nfet L=9.17E-6 W=3.27E-6
R109 (0 net20) R=6.0E2
T110 (net64 net62 net62 0) pfet L=5.01E-6 W=9.40E-6

